Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
crohn's disease and small bowel fistula
 
Major Surgical or Invasive Procedure:
exploratory lapartomy, small bowel resection, stricturoplasty

 
History of Present Illness:
Mr. ___ is a ___ y.o.m. with h/o Crohn's disease s/p 
small bowel resections, development of fistulizing disease in 
___ s/p fistulotomy,
drainage of abscess, and ___ ___, 2 episodes of
partial SBO since then, recent admission for melena which was
found to be due to Crohn's ulcerations in duodenum, who presents
with recurrent abdominal pain and found to have multiple 
strictures in the small bowel.
 
Past Medical History:
1. Crohn's disease - dx in ___, recently started on Remicade, 
last infusion ___. Had small bowel resection x 2 and 
stricturoplasty in the past as well. He then had fistulas 
repaired. Hospital admission ___ to ___ for a duodenal 
bleed secondary to a Crohns flare. During this adm he received 
his first dose of Remicade. One day admit ___ for n/v 
and perianal abcess which has been healing and was treated with 
a course of levofloxacin and Flagyl. He is now s/p 3 infusions 
of Remicade.

2. Vitamin B12 deficiency, only on MVI currently.

 
Social History:
___
Family History:
Father- irritable bowel disease.
Father's family has heart disease.
Mother's family had lung cancer, breast cancer.
 
Physical Exam:
Upon Discharge:
VS: 98.1, 72, 112/80, 16, 100% RA
Gen: NAD, AAO x 3
HEENT: NCAT
CV: RRR, S1S2
Lungs: CTAB
ABD: Soft, non-distended, mildly tender in LLQ and RLQ. Midline 
incision with staples is c/d/i with no erythema or induration.
EXT: there is mild b/l, non-pitting edema from the feet to the 
mid shin. No lesions or ecchymossis.
 
Pertinent Results:
___ 03:22PM BLOOD Hct-26.4*
___ 06:05AM BLOOD WBC-16.7* RBC-4.16* Hgb-7.5* Hct-26.4* 
MCV-64* MCH-18.1* MCHC-28.6* RDW-16.8* Plt ___
___ 05:35AM BLOOD WBC-11.4* RBC-3.71* Hgb-6.7* Hct-24.4* 
MCV-66* MCH-18.1* MCHC-27.5* RDW-16.8* Plt ___
___ 05:45AM BLOOD WBC-8.3 RBC-3.66* Hgb-6.6* Hct-24.3* 
MCV-66* MCH-18.1* MCHC-27.3* RDW-17.4* Plt ___
___ 01:12PM BLOOD ___ PTT-30.1 ___
___ 06:05AM BLOOD ___ PTT-33.6 ___
___ 03:22PM BLOOD K-4.4
___ 06:05AM BLOOD Glucose-89 UreaN-9 Creat-0.8 Na-140 K-4.5 
Cl-105 HCO3-27 AnGap-13
___ 05:35AM BLOOD Glucose-81 UreaN-11 Creat-0.7 Na-139 
K-4.5 Cl-103 HCO3-29 AnGap-12
___ 05:45AM BLOOD Glucose-76 UreaN-14 Creat-0.6 Na-137 
K-4.8 Cl-100 HCO3-25 AnGap-17
___ 03:22PM BLOOD Calcium-8.3* Phos-4.0 Mg-1.6
___ 06:05AM BLOOD Calcium-8.2* Phos-4.5 Mg-2.3
___ 05:35AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.0
___ 05:45AM BLOOD Calcium-8.8 Phos-4.6* Mg-2.0

Pathology:
Distal jejunum, resection (A-I):
1.  Chronic active enteritis with ulceration, stricture 
formation, transmural inflammation, and mural abscess formation
2.  No granulomas or dysplasia seen.
3.  Resection margins show no significant inflammation.

Imaging: no studies performed this admission

 
Brief Hospital Course:
Mr. ___ arrived at the ___ for his elective surgery. 
He was taken to the OR and tolerated his procedure well. He 
recovered in the PACU without acute events and was transferred 
to the floor.

Pain: His pain was managed by the acute pain service with an 
epidural from POD 0 to POD 4. He was also placed on a dilaudid 
PCA. On POD 5, he was transitioned to oral pain medications. 
Because of his past toleranace of narcotics, he required very 
high doses (6mg dilaudid q3hrs).

His foley catheter was removed in the AM of POD 5 and he voided 
appropriately. He was started on flomax prophylactically for his 
history of urinary retention. This was not continued past 
discharge.

GI/Diet: He was placed on IV hydrocortisone post-op and was 
tapered down to 15mg q8hrs. He was restarted on his home dose of 
prednisone prior to discharge. On POD 5 he started sips. On POD 
6 he passed flatus and was started on clears. On POD he started 
full liquids and then soft solids. He was tolerating a regular 
diet prior to discharge. He had a well-formed bowel movement on 
POD 8 without gross blood.

His staples were left in place and will be removed at follow up.

He was discharged home on POD 8.
 
Medications on Admission:
Prednisone 10', Pentasa, Protonix 20"
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*
3. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours).
Disp:*120 Tablet(s)* Refills:*0*
4. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
5. Compazine 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
6. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO every six (6) 
hours.  
7. Protonix 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
8. Ibuprofen 200 mg Tablet Sig: ___ Tablets PO four times a day 
as needed for pain for 7 days.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's disease, small bowel stricture
 
Discharge Condition:
Good. Staples in place.

 
Discharge Instructions:
You may resume your normal diet as tolerated.

Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
Other:
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
 
Followup Instructions:
___